datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=C(F)C(F)=C(F)C(F)=C2F)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[H][B-:11]([H])([H])[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1.[H][B:11]([H])[H] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[C:71](=[O:72])[N-:10][C:61]1=[O:62].C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N:33](C)[C:22](=[CH:21][CH2:20][N:10]1[C:61](=[O:62])CC[C:71]1=[O:72])[O-:23] 10=20;20,21=21,22;22,23=23"
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1.[N:10]1=[CH:61][NH:62][CH:72]=[CH:71]1>>C[O:21][CH:20]([N+:10]1=[CH:61][NH:62][CH:72]=[CH:71]1)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CC1=CC=[C:10]([B-:11]23[O:62]CC(C)(C[O:72]2)C[O:82]3)O1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC12C[O:62][B:11]([O:72]C1)[O:82]C2.CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([O:49]C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)O1 10,11=10,20"
"C[C:11](=[CH2:10])[CH:62]=[CH2:63].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[CH:62]=[CH2:63] 10,11=10,20"
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12"
"C1CC[N:12]([N:11]=[CH2:10])C1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>C[C:22]1=[C:21]([CH:20]([CH2:10][N:11]=[N+:12]2CCCC2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[CH:64]=[CH:63]1.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[CH:64]=[CH:63]1.[H:10][CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[NH:10]2)C=C1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C:20]([NH+:10]1CCCC1[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65 10=20
"CC[OH:10].C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC[OH+:10][CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"C[Si](C)(C)[Si:62]([Si](C)(C)C)([C:11](C)=[CH2:10])[Si:63](C)(C)C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[Si](C)(C)[Si:62]([Si](C)(C)C)([C+:11](C)[CH2:10][C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[Si:63](C)(C)C 10,11=10,20"
C1C[S:31][CH+:20][S:41]C1.COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2>>COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[CH:20]1[S:31]CCC[S:41]1 10=20
F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1.[C-:10]([C:81]#[N:82])([C:91]([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:92])[C:101]1=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([C:10]([C:81]#[N:82])([C:91]([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)=[O:92])[C:101]2=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1 10=20
"C1C[NH:10][CH:61]([C:62]([F:63])([F:73])[F:83])C1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C1C[NH+:10]([Cl:20])[CH:61]([C:62]([F:63])([F:73])[F:83])C1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10=20;20,21=21,22;22,23=23"
